US09303000B2
Synthesis of (Z)-3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1-styryl-1H-1,2,4-triazole (I-39)
In a 10 mL microwave seal tube 3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (0.5 g, 1.0 eq.) and ethynylbenzene (0.25 mL, 1.2 eq.) were dissolved in DMSO (5 mL). KOH (0.29 g, 2.5 eq.) was added and the reaction mixture was irradiated at 120° C. for 45 min in CEM Microwave. The completion of the reaction was confirmed by TLC using 30% EtOAc-hexane as mobile phase. Reaction mixture was quenched into ice water slurry. Compound was extracted by ethyl acetate. Organic layer was washed with brine, dried over Na2SO4, filtered and concentrated by rotary evaporation (40° C., 20 mmHg) to afford 0.373 g of brown oil. The crude reaction mixture was purified by column chromatography using silica 60/120 using ethyl acetate:hexane as mobile phase. The column was packed in hexane and started eluting in ethyl acetate in gradient manner starting with fraction collection from 5% to 10% ethyl acetate in hexane. Compound started eluting with 14% ethyl acetate in hexane. Fraction containing such TLC profile was collected together to obtain pure compound (30 mg); LCMS (%): Retention time for cis 4.7970 min (100.0%); For trans 3.975 min (98.06%).

reactant | 3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 0.5 g, 1.0 eq. | C(C)(C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NNC=N1 | C12H12F3N3O
reactant | ethynylbenzene | 0.25 mL, 1.2 eq. | C(#C)C1=CC=CC=C1 | C8H6
reactant | KOH | 0.29 g, 2.5 eq. | [OH-].[K+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | (Z)-3-(3-isopropoxy-5-(trifluoromethyl)phenyl)-1-styryl-1H-1,2,4-triazole | 0.373 g | C(C)(C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C1=CC=CC=C1 | C20H18F3N3O
